Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
neck pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo male who was playing rugby and tackled head first and had 
right sided neck pain and 30 seconds or so of right arm 
paresthesias that quickly resolved.  He denies any further 
paresthesias, weakness, or radiculopathy.  CT scan showed a 
right C6, non-displaced lateral mass fracture.
 
Past Medical History:
ADHD
 
Social History:
___
Family History:
N/A
 
Physical Exam:
T: 97.5 HR: 59 BP:114/73 RR:16 O2 sats:98% RA 
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: PERRLA     EOMs: intact
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      D    B     T    WE   WF    IP    Q  H     AT    ___    G
R     5    5     5     5    5     5    5  5      5      5    5
L     5    5     5     5    5     5    5  5      5      5    5

Sensation: Intact to light touch, propioception and vibration
bilaterally.

Reflexes: B T Br Pa Ac
Right     ___  2  2
Left      ___  2  2

Proprioception intact
Toes down going bilaterally
Rectal exam deferred

 
Pertinent Results:
Cervical CTA ___
Again seen, is a fracture through the right C6 pedicle, 
minimally displaced.  Fracture line spares the transverse 
foramen. No definite vascular injury identified. There is 
apparent irregularity of the right vertebral artery in its 
distal V1/proximal V2 portion (series 3, image 96 through 107, 
felt to be related to streak artifact and not in association 
with the fracture. No flow-limiting stenosis in the cervical 
vessels. 

 
Brief Hospital Course:
On ___ the patient presented after sports trauma with right 
neck pain and right C6 lateral mass fracture.  He was placed in 
a ___ collar.  CTA was negative for any vertebral artery 
injury.  He was admitted for observation overnight and given his 
lack of neuro symptoms and stable exam an MRI was not indicated. 
 He was discharged home and will follow up in the office in 4 
weeks with cervical XRays.
 
Medications on Admission:
Adderall
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Cyclobenzaprine 5 mg PO BID:PRN muscle spasm 
RX *cyclobenzaprine 5 mg 1 (One) tablet(s) by mouth twice a day 
Disp #*20 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right C6 Lateral Mass Fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Cervical 6 Right Lateral Mass fracture

Nonsurgical 

Activity
•*** You must wear your hard cervical collar at all times. You 
may remove it briefly for skin care and showering. 
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 
•Do NOT smoke. Smoking can affect your healing and fusion.

Medications
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___